US06040411
4-Acetoxybenzoyl chloride and 4-hydroxybenzaldehyde were used to prepare (4-formyl)phenyl 4-acetoxybenzoate, m.p. 98-100° C., in 45% yield. 18 g (0.063 mol) of this aldehyde were dissolved in 180 ml of glacial acetic acid, 9.5 g of potassium manganate and 180 ml of methyl ethyl ketone were added, and the mixture was heated to 50° C. with stirring. After 8 hours of stirring it was acidified with hydrochloric acid, 250 ml of ethyl acetate were added, and the phases were worked up. The concentrated ethyl acetate solution gave 16.8 g (89%) of 4-(4-acetoxybenzoyloxy)benzoic acid, C6H12O6 (300.3). The acid chloride was obtained in 95% yield from this acid by customary reaction with thionyl chloride.

reactant | 4-Acetoxybenzoyl chloride | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (4-formyl)phenyl 4-acetoxybenzoate | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C=O)C=C1 | C16H12O5
reactant | potassium manganate | 9.5 g | [Mn](=O)(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 180 ml | C(C)C(=O)C | C4H8O
product | 4-(4-acetoxybenzoyloxy)benzoic acid | 16.8 g, 89% | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C(=O)O)C=C2)C=C1 | C16H12O6
